US07615556B2
To a solution of ethyl 2-(4-chlorophenylamino)-2-methylpropanoate (1.2 g, 4.96 mmol) in THF (5 mL) and MeOH (2 mL), was added aqueous sodium hydroxide (3.97 g, 9.93 mmol). The mixture was heated at 50° C. for 3 h, cooled to rt, concentrated, and then neutralized to pH=3. The mixture was extracted with EtOAc, and the combined organic extracts were washed with brine, dried over Na2SO4, and concentrated to give 3-(4-chlorophenylamino)-3-methylbutanoic acid (0.96 g, 91% yield) as a yellow oil.

reactant | ethyl 2-(4-chlorophenylamino)-2-methylpropanoate | 4.96 mmol, 1.2 g | ClC1=CC=C(C=C1)NC(C(=O)OCC)(C)C | C12H16ClNO2
reactant | sodium hydroxide | 9.93 mmol, 3.97 g | [OH-].[Na+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
product | 3-(4-chlorophenylamino)-3-methylbutanoic acid | 0.96 g, 91% yield | ClC1=CC=C(C=C1)NC(CC(=O)O)(C)C | C11H14ClNO2
